US09193722B2
(S)-1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid
To a solution of (S)-piperazine-2-carboxylic acid dihydrochloride (12 g; 59 mmol) and sodium carbonate (47 g; 446 mmol) in a water/tetrahydrofuran mixture (400 ml/200 ml), stirred at room temperature under N2, was added Boc anhydride (49 g, 224 mmol). The reaction mixture was stirred at room temperature for 18 hours. The suspension was extracted twice with diethyl ether (150 ml). The aqueous was acidified to pH 1 using concentrated HCl. Extractions with ethyl acetate (3*150 ml) were carried out. The ethyl acetate organics were combined and backwashed with brine (150 ml). The organic was dried over magnesium sulfate, filtered and concentrated in vacuo to afford the title compound as a white solid (18.3 g; 76%). 1H NMR (CDCl3) 1.45-1.49 (18H, d), 2.80-2.90 (1H, m), 3.10-3.40 (2H, m), 3.75-4.10 (2H, m), 4.60-4.70 (2H, m), 8.2-8.7 (1H, br s).

reactant | (S)-piperazine-2-carboxylic acid dihydrochloride | 59 mmol, 12 g | Cl.Cl.N1[C@@H](CNCC1)C(=O)O
reactant | sodium carbonate | 446 mmol, 47 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Boc anhydride | 224 mmol, 49 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water tetrahydrofuran | 400 ml | O.O1CCCC1
product | (S)-1,4-bis(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 18.3 g, 76% | C(C)(C)(C)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C15H26N2O6
